US05068392
Preparation of N-(4-Bromo-3-methylphenyl)-acetamide
m-Toluidine (1.0 mole, 107 mL) was added dropwise to a solution of acetic anhydride (1.05 mole, 107.2 g, 99 mL) in acetic acid (500 mL) with cooling (maintain temp. ≤25° C.). After stirring 30 min, bromine (159.8 g) was added dropwise, over 60 min with continued cooling. After one half of the bromine was added, HBr (25 mL of 48% HBr) was added in one portion. A second 25 mL portion of HBr was added after 3/4 of the bromine had been added. A final 25 mL portion of HBr was added after the addition of Br2 was completed. The mixture was stirred for 30 min after which the mixture was concentrated in vacuo and was taken up in H2O and EtOAc. The layers were separated and the organic layer was washed with H2O and 10% Na2CO3 solution, dried over MgSO4 and concentrated to afford 216 g (95%) of product as a creamy white solid (m.p. 101°-102° C). 1H-NMR (CDCl3) 8 8.2 (1H, br s, NH), 7.4 (2H, dd, 3.0 Hz, 8.0 Hz), 7.2 (1H, dd, 8.0 Hz, 3.0 Hz), 2.2 (3H, s, Ph-CH3), 2.08 (3H, s, COCH3). 13C(CDCl3) 8 168, 138, 137, 132, 122, 119, 24, 23 ppm.

reactant | m-Toluidine | 1.0 mole, 107 mL | NC1=CC(=CC=C1)C | C7H9N
reactant | acetic anhydride | 1.05 mole, 99 mL, 107.2 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | bromine | 159.8 g | BrBr | Br2
reactant | HBr | 25 mL | Br | BrH
solvent | acetic acid | 500 mL | C(C)(=O)O | C2H4O2
product | N-(4-Bromo-3-methylphenyl)-acetamide | 216 g, 95% | BrC1=C(C=C(C=C1)NC(C)=O)C | C9H10BrNO
